US07696223B2
a) 2-Benzo[b]thiophen-3-yl-4-{[(2,4-dimethoxy-benzyl)-ethoxycarbonylmethyl-amino]-methyl}-thiazole-5-carboxylic acid ethyl ester
Prepared from 2-bromo-4-{[(2,4-dimethoxy-benzyl)-ethoxycarbonylmethyl-amino]-methyl}-thiazole-5-carboxylic acid ethy ester, example 81(b), and 1-benzothiophen-3-yl-boronic acid under conditions analogous to experimental example 81(c). MS: (+) m/z 555.5 (M+1).

reactant | 2-bromo-4-{[(2,4-dimethoxy-benzyl)-ethoxycarbonylmethyl-amino]-methyl}-thiazole-5-carboxylic acid ethy ester | C(C)OC(=O)C1=C(N=C(S1)Br)CN(CC(=O)OCC)CC1=C(C=C(C=C1)OC)OC | C20H25BrN2O6S
reactant | 1-benzothiophen-3-yl-boronic acid | S1C=C(C2=C1C=CC=C2)B(O)O | C8H7BO2S
product | 2-Benzo[b]thiophen-3-yl-4-{[(2,4-dimethoxy-benzyl)-ethoxycarbonylmethyl-amino]-methyl}-thiazole-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N=C(S1)C=1C2=C(SC1)C=CC=C2)CN(CC(=O)OCC)CC2=C(C=C(C=C2)OC)OC | C28H30N2O6S2
